US03962259
Reaction of 1,3-dihydro-5,6-dimethoxyspiro-[isobenzofuran-1,4'-piperidine]-3-one and αchloro-p-fluorobutyrophenone fluorobutyrophenone ethylene ketal by the method described in Example 6 provides 1,3-dihydro-5,6-dimethoxy-1'-[3-(4-fluorobenzoyl)propyl]spiro[isobenzofuran-1,4'-piperidine] -3-one.

reactant | 1,3-dihydro-5,6-dimethoxyspiro-[isobenzofuran-1,4'-piperidine]-3-one | COC=1C=C2C(OC3(CCNCC3)C2=CC1OC)=O | C14H17NO4
reactant | αchloro-p-fluorobutyrophenone fluorobutyrophenone ethylene ketal | C1COC(C(CC)F)(C2=CC=CC=C2)O1.ClC(C(=O)C1=CC=C(C=C1)F)CC
product | 1,3-dihydro-5,6-dimethoxy-1'-[3-(4-fluorobenzoyl)propyl]spiro[isobenzofuran-1,4'-piperidine] -3-one | COC=1C=C2C(OC3(CCN(CC3)CCCC(C3=CC=C(C=C3)F)=O)C2=CC1OC)=O | C24H26FNO5
